* Subcircuit inv_and
.subckt inv_and net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ 
* /home/ash98/downloads/esim-1.1.3/src/subcircuitlibrary/inv_and/inv_and.cir
* u2  net-_u1-pad1_ net-_u2-pad2_ d_inverter
* u3  net-_u2-pad2_ net-_u3-pad2_ net-_u1-pad3_ d_and
* u4  net-_u1-pad2_ net-_u3-pad2_ d_buffer
a1 net-_u1-pad1_ net-_u2-pad2_ u2
a2 [net-_u2-pad2_ net-_u3-pad2_ ] net-_u1-pad3_ u3
a3 net-_u1-pad2_ net-_u3-pad2_ u4
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Schematic Name: d_and, NgSpice Name: d_and
.model u3 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Schematic Name: d_buffer, NgSpice Name: d_buffer
.model u4 d_buffer(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Control Statements

.ends inv_and